US07582626B2
d) cis-N-{3-[2-(3,3-Dimethylbutyl)-5-hydroxy-3-oxo-2-aza-bicyclo[4.3.0]non-4-en-4-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
To a solution of cis-2-{(3,3-dimethylbutyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)acetyl]amino}-cyclopentanecarboxylic acid ethyl ester (125.8 mg, 0.226 mmol) in absolute ethanol (10 mL) was added a 21% w/w solution of sodium ethoxide in ethanol (0.84 mL, 2.25 mmol). After stirring at 60° C. for 4 h, the mixture was diluted with ethyl acetate and acidified with 1.0 M aqueous hydrochloric acid solution to pH 1. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated in vacuo. The crude mixture was purified by flash column chromatography (Teledyne Isco RediSep Flash Column; 0-100% ethyl acetate in hexanes) to afford the desired product, cis-N-{3-[2-(3,3-dimethylbutyl)-5-hydroxy-3-oxo-2-aza-bicyclo[4.3.0]non-4-en-4-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (52.7 mg, 0.103 mmol, 46%), as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 0.94 (9H, s), 1.56-1.57 (5H, m), 2.08-2.15 (3H, m), 3.05 (3H, s), 3.17 (1H, bs), 3.34 (1H, bs), 3.64-3.72 (1H, m), 3.90 (1H, bs), 7.48-7.60 (3H, m), 10.17 (1H, bs). LC-MS (ESI) calcd for C22H30N4O6S2 510.16, found 511.4 [M+H+]. Anal. calcd for C22H30N4O6S2 0.3H2O: C, 51.20; H, 5.98; N, 10.86; S, 12.43, found C, 51.39; H, 5.81; N, 10.65; S, 12.26.

reactant | cis-2-{(3,3-dimethylbutyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)acetyl]amino}-cyclopentanecarboxylic acid ethyl ester | 0.226 mmol, 125.8 mg | C(C)OC(=O)[C@H]1[C@H](CCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)CCC(C)(C)C | C24H36N4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2.25 mmol, 0.84 mL | C(C)O | C2H6O
product | cis-N-{3-[2-(3,3-dimethylbutyl)-5-hydroxy-3-oxo-2-aza-bicyclo[4.3.0]non-4-en-4-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.103 mmol, 52.7 mg, 46% | CC(CCN1[C@@H]2CCC[C@@H]2C(=C(C1=O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)O)(C)C | C22H30N4O6S2
